US06962993B2
(1-Benzyl-4-methyl-piperidin-3-yl)-methyl-amine
To a stirred solution of the product from Method E (3.81 grams/0.019 mol) and 38 mL of 2.0 M methylamine in THF was added 2.2 mL of acetic acid and the resulting mixture stirred at room temperature for 1.5 hours. Triacetoxysodiumborohydride (NaB(OAc)3H) (7.94 grams/0.038 mol) was added as a solid and the new mixture stirred at room temperature for 18 hours. The reaction was quenched with 2 N hydrochloric acid and the pH adjusted to 1. The reaction mixture was washed two times with ether, the aqueous layer then adjusted to pH of 12 with 6 N sodium hydroxide (aq) and extracted three times with dichloromethane. The combined dichloromethane layers were dried over Na2SO4 filtered and evaporated to dryness in vacuo affording 3.51 grams (87.75%) of the title compound as dark yellow oil. LRMS: 219.1 (M+1).

reactant | methylamine | 2.0 M, 38 mL | CN | CH5N
reactant | acetic acid | 2.2 mL | C(C)(=O)O | C2H4O2
reactant | THF | C1CCOC1 | C4H8O
product | (1-Benzyl-4-methyl-piperidin-3-yl)-methyl-amine | 3.51 grams, 87.75% | C(C1=CC=CC=C1)N1CC(C(CC1)C)NC | C14H22N2
